US07268231B2
To a suspension of 2-[(3-methyl-thiophen-2-ylmethyl)-amino]-thiazol-4-one (36.2 mg, 0.16 mmol), and 1,5-naphthyridine-6-carboxaldehyde (31.6 mg, 0.20 mmol) in toluene (1 mL) in a microwave tube were added benzoic acid (2.0 mg, 0.02 mmol) and piperidine (1.7 uM, 0.02 mmol). The reaction mixture was heated to 130° C. with microwave for 10 min. The reaction mixture was then cooled to r.t. and diluted with toluene. The solid was collected by filtration and the solid was washed with toluene, MeOH and ether to give 2-[(3-Methyl-thiophen-2-ylmethyl)-amino]-5-[1,5]naphthyridin-2-ylmethylene-thiazol-4-one as a light brown solid (25.7 mg, 43.9%). HR-ES (+) m/e calcd. for C18H14N4OS2: (M+H)+ 367.0682. Found: 367.0683.

reactant | 2-[(3-methyl-thiophen-2-ylmethyl)-amino]-thiazol-4-one | 0.16 mmol, 36.2 mg | CC1=C(SC=C1)CNC=1SCC(N1)=O | C9H10N2OS2
reactant | 1,5-naphthyridine-6-carboxaldehyde | 0.20 mmol, 31.6 mg | N1=CC=CC2=NC(=CC=C12)C=O | C9H6N2O
reactant | benzoic acid | 0.02 mmol, 2.0 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | piperidine | 0.02 mmol, 1.7 uM | N1CCCCC1 | C5H11N
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(3-Methyl-thiophen-2-ylmethyl)-amino]-5-[1,5]naphthyridin-2-ylmethylene-thiazol-4-one | 25.7 mg, 43.9% | CC1=C(SC=C1)CNC=1SC(C(N1)=O)=CC1=NC2=CC=CN=C2C=C1 | C18H14N4OS2
